US08207178B2
Step D: 4′-(2-(4-Cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid
A solution of methyl 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylate (110 mg, 0.22 mmol) and lithium hydroxide (100 mg, 2.38 mmol) in) in a mixture of THF (3 mL), MeOH (1 mL), and H2O (1 mL) was stirred at rt for 3 h. The reaction mixture was diluted with H2O (5 mL) and acidified (1 N HCl). The resulting precipitate was collected by filtration to yield the desired compound (90 mg). MS (ESI): m/z 491 (M+1)+.

reactant | methyl 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylate | 0.22 mmol, 110 mg | C(#N)C1=CC=C(C=C1)NC1=NC(=C2N=CN(C2=N1)C)OC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OC)C | C29H24N6O3
reactant | lithium hydroxide | 2.38 mmol, 100 mg | [OH-].[Li+]
reactant | MeOH | 1 mL | CO | CH4O
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 5 mL | O | H2O
solvent | H2O | 1 mL | O | H2O
product | 4′-(2-(4-Cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylic acid | 90 mg | C(#N)C1=CC=C(C=C1)NC1=NC(=C2N=CN(C2=N1)C)OC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C | C28H22N6O3
